US06066657
2-Formyl-4-bromo-7-methoxybenzofuran
2-Formyl-7-methoxybenzofuran (1.0 g) was stirred in dichloromethane (10 ml) under nitrogen at 0° C. Sodium acetate (1.4 g) was added followed by the dropwise addition of bromine (0.29 ml). Further dichloromethane (20 ml) was added to the mixture to facilitate stirring and the mixture was stirred overnight. The reaction mixture was diluted with dichloromethane (40 ml) and washed with water (30 ml). Drying over magnesium sulfate followed by removal of the solvent in vacuo gave a pale orange solid. Purification by flash chromatography on silica eluting with 10% ethyl acetate in hexane gave the title compound (0.50 g) as a beige solid.

reactant | 2-Formyl-7-methoxybenzofuran | 1.0 g | C(=O)C=1OC2=C(C1)C=CC=C2OC | C10H8O3
reactant | Sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.29 ml | BrBr | Br2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Formyl-4-bromo-7-methoxybenzofuran | 0.50 g | C(=O)C=1OC2=C(C1)C(=CC=C2OC)Br | C10H7BrO3
